US06964961B2
B. 7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide
The title compound was prepared from 2-methyl-1H-indol-5-ylamine and 7-chloro-thieno[3,2-b]pyridine-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide by a procedure analogous to Example 1C. MS: 436 (MH+); HPLC Rf: 3.45 min.; HPLC purity 94%.

reactant | 2-methyl-1H-indol-5-ylamine | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
reactant | 7-chloro-thieno[3,2-b]pyridine-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide | N1(CCOCC1)CCNC(=O)C1=CC2=NC=CC(=C2S1)Cl | C14H16ClN3O2S
product | 7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide | N1(CCOCC1)CCNC(=O)C1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C23H25N5O2S
